US07569578B2
(±)-4-(8-Fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)-N-(2-[7-methyl-1H-indazol-5-yl]-1-[1-(piperidin-4-ylmethyl)-1H-tetrazol-5-yl]ethyl)piperidin-1-carboxamide
tert-Butyl-4-({5-(1-[4-(8-fluoro-2-oxo-1,2-dihydroquinazolin-3[4H]-yl)piperidine-1-carboxamido]-2-(7-methyl-1H-indazol-5-yl)ethyl)-1H-tetrazol-1-yl}methyl)piperidine-1-carboxylate (10 mg, 0.014 mmol) was dissolved in a 1:1 mixture of trifluoroacetic acid and methylene chloride (1.0 mL) and stirred at room temperature for 30 min. The solvent was removed under reduced pressure and the compound dried in vacuo for 2 h to afford 5.9 mg (68%). 1H-NMR (CD3OD, 500 MHz) δ 1.20-1.48 (m, 4H), 1.50-1.79 (m, 5H) 2.24 (dd, J=12.5, 8.6, 1H), 2.50 (s, 3H), 2.57 (dd, J=11.6, 11.3, 1H), 3.18 (bs, 2H), 3.47 (s, 1H), 4.01-4.40 (m, 7H), 5.29 (dd, J=8.2, 7.9, 1H), 6.90-7.15 (m, 4H), 7.37 (s, 1H), 7.98 (s, 1H), 8.00 (s, 1H). Mass spec.: 616.20 (MH)+.

reactant | tert-Butyl-4-({5-(1-[4-(8-fluoro-2-oxo-1,2-dihydroquinazolin-3[4H]-yl)piperidine-1-carboxamido]-2-(7-methyl-1H-indazol-5-yl)ethyl)-1H-tetrazol-1-yl}methyl)piperidine-1-carboxylate | 0.014 mmol, 10 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1N=NN=C1C(CC=1C=C2C=NNC2=C(C1)C)NC(=O)N1CCC(CC1)N1C(NC2=C(C=CC=C2C1)F)=O | C36H46FN11O4
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
product | (±)-4-(8-Fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)-N-(2-[7-methyl-1H-indazol-5-yl]-1-[1-(piperidin-4-ylmethyl)-1H-tetrazol-5-yl]ethyl)piperidin-1-carboxamide | FC=1C=CC=C2CN(C(NC12)=O)C1CCN(CC1)C(=O)NC(CC=1C=C2C=NNC2=C(C1)C)C1=NN=NN1CC1CCNCC1 | C31H38FN11O2
